US08703941B2
A 50-mL round-bottom flask placed a solution of 10,12-dichloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene (500 mg, 2.04 mmol, 1.00 equiv) in anhydrous CH3CN (20 mL) was added trans-cyclohexane-1,4-diamine (280 mg, 2.45 mmol, 1.20 equiv) and potassium carbonate (844 mg, 6.11 mmol, 3.00 equiv) at room temperature. The resulting solution was stirred overnight at 80° C. under nitrogen. The resulting solution was diluted with EtOAc, washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted (520 mg, crude) of 1-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine as a white solid which was used directly for next step without further purification.

reactant | 10,12-dichloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene | 2.04 mmol, 500 mg, 1.00 equiv | ClC1=NC=2SC=3CCCC3C2C(=N1)Cl | C9H6Cl2N2S
reactant | trans-cyclohexane-1,4-diamine | 2.45 mmol, 280 mg, 1.20 equiv | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
reactant | potassium carbonate | 6.11 mmol, 844 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 520 mg | ClC1=NC=2SC=3CCCC3C2C(=N1)NC1CCC(CC1)N | C15H19ClN4S
